US06426345B1
A mixture of 4-(3-methoxycarbonylphenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (0.29 g) and 4N hydrochloric acid (18 ml) was stirred under reflux for 2 hours. After evaporation of the solvent, crude residue was chromatographed on silica gel (29 g, chloroform-methanol 9:1 as eluent) and crystallized from methanol to afford 4-(3-carboxyphenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine.hydrochloride as colorless crystal (0.29 g)

reactant | 4-(3-methoxycarbonylphenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 0.29 g | COC(=O)C=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | C21H16N4O3
reactant | hydrochloric acid | 4N, 18 ml | Cl | ClH
product | 4-(3-carboxyphenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine.hydrochloride | 0.29 g | Cl.C(=O)(O)C=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | InChI=1S/C20H14N4O3.ClH/c25-19-17(10-13-4-2-8-21-12-13)23-16-7-3-9-22-18(16)24(19)15-6-1-5-14(11-15)20(26)27;/h1-9,11-12H,10H2,(H,26,27);1H
